US07528143B2
(4-Chloro-3-methoxy-phenyl)-(2-chloro-5-methyl-pyrimidin-4-yl)-amine (Intermediate 31)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.50 g, 3.5 mmol), 4-bromo-1-chloro-2-methoxy-benzene (0.65 mL, 4.8 mmol), Pd2(dba)3 (0.17 g, 0.19 mmol), Xantphos (0.22 g, 0.38 mmol) and cesium carbonate (2.3 g, 7.1 mmol) was suspended in dioxane (20 mL) and heated at reflux under the argon atmosphere for 5 h. The reaction mixture was cooled to room temperature and diluted with DCM (30 mL). The mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexanes to 40% EtOAc/hexanes) to afford the title compound (0.55 g, 55%) as a yellow solid.

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 3.5 mmol, 0.50 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-bromo-1-chloro-2-methoxy-benzene | 4.8 mmol, 0.65 mL | BrC1=CC(=C(C=C1)Cl)OC | C7H6BrClO
reactant | Xantphos | 0.38 mmol, 0.22 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 7.1 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.19 mmol, 0.17 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (4-Chloro-3-methoxy-phenyl)-(2-chloro-5-methyl-pyrimidin-4-yl)-amine | 0.55 g, 55% | ClC1=C(C=C(C=C1)NC1=NC(=NC=C1C)Cl)OC | C12H11Cl2N3O
